US04518415
A mixture of 2-[3-hydroxy-3-(2,4-dichlorophenyl)prop-1-yl]-1,3-dioxane (2.91 g) and pyridinium dichromate (6.96 g) in dry dimethylformamide (DMF: 20 ml) was stirred at room temperature for 7 hours. The reaction mixture was diluted with water (100 ml) and extracted with diethyl ether. The extracts were washed with water, dried over magnesium sulphate, and concentrated under reduced pressure to give 2-[2-(2,4-dichlorobenzoyl)ethyl]-1,3-dioxane (2.7 g, 93%) as an orange oil, IR (film): 1700 cm-1.

reactant | 2-[3-hydroxy-3-(2,4-dichlorophenyl)prop-1-yl]-1,3-dioxane | 2.91 g | OC(CCC1OCCCO1)C1=C(C=C(C=C1)Cl)Cl | C13H16Cl2O3
reactant | pyridinium dichromate | 6.96 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 2-[2-(2,4-dichlorobenzoyl)ethyl]-1,3-dioxane | 2.7 g, 93% | ClC1=C(C(=O)CCC2OCCCO2)C=CC(=C1)Cl | C13H14Cl2O3
